US04992547
2-Methyl-1-(4-piperidinophenyl)-propan-1-one
49.86 (0.30 mol) of 1-(4-fluorophenyl)-2-methylpropan-1-one, prepared by a Friedel-Crafts reaction from isobutyryl chloride with fluorobenzene analogously to European Patent Application No. 3,002, and 25.5 g (0.30 mol) of piperidine are dissolved in 120 ml of dimethyl sulfoxide, and the solution is heated to 110° C. together with 41.5 g (0.30 mol) of potassium carbonate. After 16 hours of stirring at 110° C. the suspension is cooled down and is poured onto an ice-water mixture. The crystals are filtered off, are washed with water and are recrystallised from hexane.

reactant | 1-(4-fluorophenyl)-2-methylpropan-1-one | FC1=CC=C(C=C1)C(C(C)C)=O | C10H11FO
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
reactant | fluorobenzene | FC1=CC=CC=C1 | C6H5F
reactant | piperidine | 0.30 mol, 25.5 g | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 0.30 mol, 41.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 120 ml | CS(=O)C | C2H6OS
product | 2-Methyl-1-(4-piperidinophenyl)-propan-1-one | CC(C(=O)C1=CC=C(C=C1)N1CCCCC1)C | C15H21NO
